US04572912
5-{4-[2-(6-Acetoxy-7,8-dimethoxy-2,5-dimethylchroman-2-yl)ethoxy]benzyl}-2-iminothiazolidin-4-one
The procedure described in Example 1(a) was repeated, except that 558 mg of ethyl 3-{4-[2-(6-acetoxy-7,8-dimethoxy-2,5-dimethylchroman-2-yl)ethoxy]phenyl}-2-chloropropionate, 100 mg of thiourea and 12 ml of sulfolane were heated at 110°-115° C. for 3.5 hours. The product was subsequently treated as described in Example 1(a), except that the crude product, in the form of an oil, was purified by column chromatography through silica gel, eluted with a 20:1 by volume mixture of ethyl acetate and methanol, to give the title compound, softening at 103°-110° C.

reactant | ethyl 3-{4-[2-(6-acetoxy-7,8-dimethoxy-2,5-dimethylchroman-2-yl)ethoxy]phenyl}-2-chloropropionate | 558 mg | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1OC)OC)(C)CCOC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C28H35ClO8
reactant | thiourea | 100 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 12 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-{4-[2-(6-Acetoxy-7,8-dimethoxy-2,5-dimethylchroman-2-yl)ethoxy]benzyl}-2-iminothiazolidin-4-one | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1OC)OC)(C)CCOC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)C | C27H32N2O7S
